US06465472B1
2-[2-(1-Imidazolyl)ethyl]-4-(3,4-methylenedioxyphenyl)-6,7-methylenedioxy-1(2H)-phthalazinone
A mixture of 4-(3,4-methylenedioxyphenyl)-6,7-methylenedioxy-1(2H)-phthalazinone (133 mg, 0.43 mmol), 1-(2-bromoethyl)imidazole hydrogen bromide (439 mg, 1.72 mmol), and K2CO3 (415 mg, 3.0 mmol) in DMF (10 mL) was stirred for 5 h at 70° C. The mixture was cooled, and 2N HCl and EtOAc were added to the mixture. The acidic aqueous layer was separated, made alkaline with 5% K2CO3 solution, and extracted with EtOAc. The extract was washed with brine, dried and concentrated under reduced pressure. The residual solid were purified by chromatography, on silica gel with CHCl3-MeOH (20:1) to afford the product as a white solid (27 mg, 16%). 300 MHz 1H-NMR (CDCl3): δ 7.78 (s, 1H), 7.37 (s, 1H), 7.04-6.86 (m, 5H), 6.13 (s, 2H), 6.03 (s, 2H), 4.58 (m, 2H), 4.45 (m, 2H).

reactant | 4-(3,4-methylenedioxyphenyl)-6,7-methylenedioxy-1(2H)-phthalazinone | 0.43 mmol, 133 mg | C1OC=2C=C(C=CC2O1)C1=NNC(C2=CC3=C(C=C12)OCO3)=O | C16H10N2O5
reactant | 1-(2-bromoethyl)imidazole hydrogen bromide | 1.72 mmol, 439 mg | Br.BrCCN1C=NC=C1
reactant | K2CO3 | 3.0 mmol, 415 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[2-(1-Imidazolyl)ethyl]-4-(3,4-methylenedioxyphenyl)-6,7-methylenedioxy-1(2H)-phthalazinone | 27 mg, 16% | N1(C=NC=C1)CCN1C(C2=CC3=C(C=C2C(=N1)C1=CC2=C(C=C1)OCO2)OCO3)=O | C21H16N4O5
